US06977262B2
To a solution of ethyl isonipecotate (8.0 g) in THF (100 mL) was added triethylamine (5.7 g), dimethylaminopyridine (0.6 g) and acetyl chloride (4.4 g) at 0° C. and the mixture was stirred for an hour. The mixture was extracted with ethyl acetate and the solvent was evaporated under reduced pressure to give ethyl 1-acetylpiperidine-4-carboxylate (10 g) as a colorless oil. To a solution of acetonitrile (2.5 g) in THF (300 mL) was added n-BuLi (57 mmol) at −78° C. Further, ethyl 1-acetylpiperidine-4-carboxylate (10 g) was added and the mixture was stirred for an hour. After acidification with hydrochloric acid, the mixture was extracted with ethyl acetate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (10:1)) to give 1-(1-acetylpiperidin-4-yl)-2-cyanoethan-1-one (7.5 g) as a colorless oil. A solution of 2,1,3-benzoxadiazole-4-aldehyde (0.3 g), 3-aminopyrazole (0.17 g) and 1-(1-acetylpiperidin-4-yl)-2-cyanoethan-1-one (0.4 g) in acetonitrile (10 mL) was heated under reflux overnight. The reaction mixture was cooled to room temperature, and the precipitated crystals were collected by filtration to give the title compound (0.49 g) as yellow crystals.

reactant | acetonitrile | 2.5 g | C(C)#N | C2H3N
reactant | n-BuLi | 57 mmol | [Li]CCCC
reactant | ethyl 1-acetylpiperidine-4-carboxylate | 10 g | C(C)(=O)N1CCC(CC1)C(=O)OCC | C10H17NO3
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 1-(1-acetylpiperidin-4-yl)-2-cyanoethan-1-one | 7.5 g | C(C)(=O)N1CCC(CC1)C(CC#N)=O | C10H14N2O2
